### PR TITLE
[Merged by Bors] - feat(Order/Lattice): add `DistribLattice` instance for subtype

### PR DESCRIPTION
**Pull request by yoh-tanimoto**
Add `DistribLattice` instance when `⊔` and `⊓` in the original lattice preserve the property defining the subtype.

---

Split from #36489

### CODE REVIEW

File: Mathlib/Order/Lattice.lean [hunk 1]
```diff
@@ -930,6 +930,16 @@ theorem mk_sup_mk [SemilatticeSup α] {P : α → Prop}
...
 
+/-- A subtype forms a distributive lattice if `⊔` and `⊓` preserve the property.
+See note [reducible non-instances]. -/
+protected abbrev distribLattice [DistribLattice α] {P : α → Prop}
+    (Psup : ∀ ⦃s t : α⦄, P s → P t → P (s ⊔ t)) (Pinf : ∀ ⦃s t : α⦄, P s → P t → P (s ⊓ t)) :
+    DistribLattice (Subtype P) where
+  toLattice := Subtype.lattice Psup Pinf
+  le_sup_inf a b c := by
+    rw [← coe_le_coe, coe_sup Psup, coe_inf Pinf, coe_sup Psup, coe_sup Psup, Subtype.coe_inf Pinf]
+    exact @DistribLattice.le_sup_inf α _ a b c
```
Comment (YaelDillies) [inline Mathlib/Order/Lattice.lean]:
```suggestion
    DistribLattice (Subtype P) :=
  letI := Subtype.lattice Psup Pinf
  Subtype.coe_injective.distribLattice _ coe_inf coe_sup
```
is probably easier

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Order/Lattice.lean (hunk 1 above)
Comment (yoh-tanimoto) [reply Mathlib/Order/Lattice.lean]: `Subtype.coe_injective.distribLattice` is defined below `Subtype.distribLattice`. Should I move it?

Comment (YaelDillies) [reply Mathlib/Order/Lattice.lean]: Yes, that would make sense

Comment (yoh-tanimoto) [reply Mathlib/Order/Lattice.lean]: ok moved below `Function.Injective.distribLattice`, in `section Lift`. thanks for your review!
